US08022062B2
(2-Fluoro-4-phenoxy-benzyl)-carbamic acid tert-butyl ester:
Mix under argon atmosphere (4-bromo-2-fluorobenzyl)-carbamic acid tert-butyl ester (2.12 g, 7.0 mmol), phenol (1.32 g, 14 mmol), 2,2,6,6-tetramethylheptane-3,5-dione (129 mg, 0.7 mmol), and cesium carbonate (4.56 g, 14 mmol) in anhydrous NMP (15 mL). Degas the flask, fill with argon and add copper(I) chloride (346 mg, 3.5 mmol) quickly. Degas the flask then fill with argon and heat at 120° C. for 5 h. Cool to ambient temperature, dilute with EtOAc and filter. Wash the mixture sequentially with 0.5N aqueous HCl, 0.5N aqueous NaOH and brine. Separate the organic layer, dry over Na2SO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (1:0, 9:1 and 3:1) to obtain the desired intermediate (1.28 g, 58%). GC-MS m/z: 260 [M−C4H9)+].

reactant | (4-bromo-2-fluorobenzyl)-carbamic acid tert-butyl ester | 7.0 mmol, 2.12 g | C(C)(C)(C)OC(NCC1=C(C=C(C=C1)Br)F)=O | C12H15BrFNO2
reactant | phenol | 14 mmol, 1.32 g | C1(=CC=CC=C1)O | C6H6O
reactant | 2,2,6,6-tetramethylheptane-3,5-dione | 0.7 mmol, 129 mg | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | cesium carbonate | 14 mmol, 4.56 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | NMP | 15 mL | CN1CCCC1=O | C5H9NO
catalyst | copper(I) chloride | 3.5 mmol, 346 mg | [Cu]Cl
product | (2-Fluoro-4-phenoxy-benzyl)-carbamic acid tert-butyl ester | 1.28 g, 58% | C(C)(C)(C)OC(NCC1=C(C=C(C=C1)OC1=CC=CC=C1)F)=O | C18H20FNO3
